US04699915
3-(3-Methyl-4-amino-phenyl)-1,2,4-triazole
A solution of Na2S.8H2O (171.89 g) in methanol (690 ml) and water (173 ml) was added dropwise to a refluxing suspension of 3-(3-methyl-4-nitro-phenyl)-1,2,4-triazole (36.8 g) in methanol (170 ml). After two hours of refluxing, the solution was filtered through charcoal and evaporated to dryness. The residue was dissolved in 10% hydrochloric acid, the solution was washed several times with ethyl acetate and neutralized with NaHCO3 solution. The solid which separated out was filtered off and dried to give 25.9 g of the title compound; M.p. 183°-186° C. 3-(3-Methoxy-4-amino-phenyl)-1,2,4-triazole; M.p. 191°-194° C., was prepared in analogous manner.

reactant | 3-(3-methyl-4-nitro-phenyl)-1,2,4-triazole | 36.8 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=NNC=N1 | C9H8N4O2
solvent | methanol | 690 ml | CO | CH4O
solvent | water | 173 ml | O | H2O
solvent | methanol | 170 ml | CO | CH4O
product | 3-(3-Methyl-4-amino-phenyl)-1,2,4-triazole | 25.9 g | CC=1C=C(C=CC1N)C1=NNC=N1 | C9H10N4
